US09340544B2
(4-Chloro-phenyl)-[9-(2-ethoxy-ethyl)-2-hydrazino-9H-purin-6-yl]-amine
Was prepared according to Example 8 from [2-chloro-9-(2-ethoxy-ethyl)-9H-purin-6-yl]-(4-chloro-phenyl)-amine and hydrazine monohydrate.

reactant | [2-chloro-9-(2-ethoxy-ethyl)-9H-purin-6-yl]-(4-chloro-phenyl)-amine | ClC1=NC(=C2N=CN(C2=N1)CCOCC)NC1=CC=C(C=C1)Cl | C15H15Cl2N5O
reactant | hydrazine monohydrate | O.NN
product | (4-Chloro-phenyl)-[9-(2-ethoxy-ethyl)-2-hydrazino-9H-purin-6-yl]-amine | ClC1=CC=C(C=C1)NC1=C2N=CN(C2=NC(=N1)NN)CCOCC | C15H18ClN7O
